US05360814
Step a: N-(Benzyloxycarbonyl)-4,6-dibromotryptophan ethyl ester
Mix DL-4,6-dibromotryptophan ethyl ester (1.20g, 3.07mmol), triethylamine (341mg, 3.38mmol)and methylene chloride (50mL). Add benzyl chloroformate (692mg, 4.06mmol) and stir for 12 hours. Dilute with methylene chloride, wash with 1M hydrochloric acid (100mL) and brine (100mL). Dry (MgSO4) and evaporate the solvent in vacuo and purify by silica gel chromatography to give the title compound.

reactant | 4,6-dibromotryptophan ethyl ester | 3.07mmol, 1.20g | C(C)OC([C@@H](N)CC1=CNC2=CC(=CC(=C12)Br)Br)=O | C13H14Br2N2O2
reactant | triethylamine | 3.38mmol, 341mg | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 4.06mmol, 692mg | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50mL | C(Cl)Cl | CH2Cl2
product | N-(Benzyloxycarbonyl)-4,6-dibromotryptophan ethyl ester | C(C)OC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CNC2=CC(=CC(=C12)Br)Br)=O | C21H20Br2N2O4
